US04076821
A mixture of 13.5 g of 3,3-bis(p-fluorophenyl)cyclopentyl tosylate (nD20 1.5691), 7.5 g of 1-(4-piperidyl)-5-chloro-2-benzimidazolinone hydrochloride, 8.6 g of potassium carbonate and 70 ml of dimethylformamide is stirred at 70° C for 52 hours. The reaction mixture is poured into ice water, and the aqueous layer is removed by decantation. The precipitated semi-solid is dissolved in chloroform. The solution is washed with water and dried over sodium sulfate, and the solvent is removed. The crude crystals are recrystallized from a mixture of chloroform and ethanol (20:1) to give 1-[1-(3,3-bis(p-fluorophenyl)cyclopentyl)-4-piperidyl]-5-chloro-2-benzimidazolinone as white crystals, melting at 131°-134° C.

reactant | 3,3-bis(p-fluorophenyl)cyclopentyl tosylate | 13.5 g | S(=O)(=O)(OC1CC(CC1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C1=CC=C(C)C=C1 | C24H22F2O3S
reactant | 1-(4-piperidyl)-5-chloro-2-benzimidazolinone hydrochloride | 7.5 g | Cl.N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[1-(3,3-bis(p-fluorophenyl)cyclopentyl)-4-piperidyl]-5-chloro-2-benzimidazolinone | FC1=CC=C(C=C1)C1(CC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O)C2=CC=C(C=C2)F | C29H28ClF2N3O
